US09334464B2
Preparation of ((6S,7S)-3,5,5,6,7,8,8-heptamethyl-5,6,7,8-tetrahydronaphthalen-2-yl)methanol
A solution of 10.00 g (38.7 mmol) of (6S,7S)-3,5,5,6,7,8,8-heptamethyl-5,6,7,8-tetrahydronaphthalene-2-carbaldehyde in ether (50 ml) and tetrahydrofuran (THF, 15 ml) was added dropwise during 45 min to a suspension of LiAlH4 (1.48 g, 39.0 mmol) in ether (55 ml) at 0° C. The reaction mixture was left warming up to room temperature and then heated to reflux for 1.5 h. After cooling to room temperature, the remaining LiAlH4 was quenched with water (2 ml) and NaOH (10%, 2 ml) and water (6 ml) was added. The formation of a white precipitate was observed which was filtered off. Ether was added and the organic phase washed with water, dried (Na2SO4) and concentrated to give 10.11 g (quant.) of the product.

reactant | (6S,7S)-3,5,5,6,7,8,8-heptamethyl-5,6,7,8-tetrahydronaphthalene-2-carbaldehyde | 38.7 mmol, 10.00 g | CC=1C(=CC=2C([C@H]([C@@H](C(C2C1)(C)C)C)C)(C)C)C=O | C18H26O
reactant | LiAlH4 | 39.0 mmol, 1.48 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | ether | 55 ml | CCOCC | C4H10O
product | ((6S,7S)-3,5,5,6,7,8,8-heptamethyl-5,6,7,8-tetrahydronaphthalen-2-yl)methanol | CC=1C(=CC=2C([C@H]([C@@H](C(C2C1)(C)C)C)C)(C)C)CO | C18H28O
